US07790898B2
[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-m-tolyl-methanone
The compound of Example 8 was prepared according to the general preparation protocol A from 3-methylbenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 3-methylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | [3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-m-tolyl-methanone | OC1(CN(CCC1)C(=O)C=1C=C(C=CC1)C)C1=CC(=CC=C1)OC | C20H23NO3
